US07109332B2
5-Chloro-N-[(4-(7-(thiophen-2-yl)-amino-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)-phenylamino)carbonyl]thiophene-2-sulfonamide
Compound 5-Chloro-N-[(4-(7-amino-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)-phenylamino)carbonyl]thiophene-2-sulfonamide (40 mg, 0.08 mmol) was dissolved in methyl sulfoxide (0.5 mL). To it was added acetic acid (1.0 mL) and thiophene-2-carbaldehyde (18 mg, 0.16 mmol). The mixture was stirred for 15 minutes at room temperature. To it was then added sodium cyanoborohydride (21 mg, 0.32 mmol). The mixture was stirred for 30 minutes and quenched with water (2 mL). The reaction mixture was then directly subjected to preparative HPLC purification to yield the title compound (26 mg, 55%). ES+ MS showed 588 m/z and ES− MS 586 m/z, the correct mass for the product.

reactant | 5-Chloro-N-[(4-(7-amino-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)-phenylamino)carbonyl]thiophene-2-sulfonamide | 0.08 mmol, 40 mg | ClC1=CC=C(S1)S(=O)(=O)NC(=O)NC1=CC=C(C=C1)N1C(NC2=CC(=CC=C2C1=O)N)=O | C19H14ClN5O5S2
reactant | acetic acid | 1.0 mL | C(C)(=O)O | C2H4O2
reactant | thiophene-2-carbaldehyde | 0.16 mmol, 18 mg | S1C(=CC=C1)C=O | C5H4OS
reactant | sodium cyanoborohydride | 0.32 mmol, 21 mg | C(#N)[BH3-].[Na+]
solvent | methyl sulfoxide | 0.5 mL | CS(=O)C | C2H6OS
product | 5-Chloro-N-[(4-(7-(thiophen-2-yl)-amino-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)-phenylamino)carbonyl]thiophene-2-sulfonamide | 26 mg, 55% | ClC1=CC=C(S1)S(=O)(=O)NC(=O)NC1=CC=C(C=C1)N1C(N(C2=CC(=CC=C2C1=O)C=1SC=CC1)N)=O | C23H16ClN5O5S3
